US07932246B2
N-(Tetrahydro-2H-pyran-2-yloxy) 2-{[3-(2-napthylsulphonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxamide
To a solution of 2-{[3-(2-naphthylsulfonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxylic acid (105 mg, 0.26 mmol) in DCM (5 ml) and THF (5 ml) was added EDCl (59 mg, 0.3 mmol). Et3N (0.08 ml, 0.8 mmol) was added followed by HOBt (42 mg, 0.3 mmol) and O-(tetrahydro-pyran-2-yl)-hydroxylamine (36 mg, 0.3 mmol). The suspension was stirred at r.t. for 3 days. Further EDCl (14 mg), Et3N (0.02 ml), HOBt (11 mg), and O-(tetrahydro-pyran-2-yl)-hydroxylamine (9 mg) were added and stirring at r.t. continued for a further 3 days. The reaction mixture was evaporated to dryness, re-dissolved in EtOAc (20 ml) and washed with sat. aq. NaHCO3 (10 ml) and water (10 ml). The EtOAc layer was dried (Na2SO4), filtered and concentrated to dryness to afford the title compound as a white solid (110 mg, 83%). LCMS purity 90%, m/z 511 [M+H]+.

reactant | 2-{[3-(2-naphthylsulfonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxylic acid | 0.26 mmol, 105 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC2C(C2C1)NC1=NC=C(C=N1)C(=O)O | C20H18N4O4S
reactant | EDCl | 0.3 mmol, 59 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.3 mmol, 42 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | O-(tetrahydro-pyran-2-yl)-hydroxylamine | 0.3 mmol, 36 mg | O1C(CCCC1)ON | C5H11NO2
reactant | EDCl | 14 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 11 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | O-(tetrahydro-pyran-2-yl)-hydroxylamine | 9 mg | O1C(CCCC1)ON | C5H11NO2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | Et3N | 0.02 ml | CCN(CC)CC | C6H15N
solvent | Et3N | 0.8 mmol, 0.08 ml | CCN(CC)CC | C6H15N
product | N-(Tetrahydro-2H-pyran-2-yloxy) 2-{[3-(2-napthylsulphonyl)-3-azabicyclo[3.1.0]hex-6-yl]amino}pyrimidine-5-carboxamide | 110 mg, 83% | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)NC1C2CN(CC12)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C25H27N5O5S
